US06673795B2
In analogy to the procedure described in example 20b, 4-chloro-2,6-bis-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile was treated with 4-phenyl-piperidine-4-carbonitrile in dioxane in the presence of N-ethyl-diisopropylamine at 60° C. to yield 4-(4-cyano-4-phenyl-piperidin-1-yl)-2,6-bis-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile as an amorphous, white solid; MS: [M+H]+=408.

reactant | 4-chloro-2,6-bis-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NCCO)NCCO | C9H12ClN5O2
reactant | 4-phenyl-piperidine-4-carbonitrile | C1(=CC=CC=C1)C1(CCNCC1)C#N | C12H14N2
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(4-cyano-4-phenyl-piperidin-1-yl)-2,6-bis-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile | C(#N)C1(CCN(CC1)C1=NC(=NC(=C1C#N)NCCO)NCCO)C1=CC=CC=C1 | C21H25N7O2
